US06022963
Pentafluorophenol (30 g; 163 mmol) and triethylamine (20 g, 200 mmol) were combined in 200 ml dry THF, and then added dropwise to a stirring solution of phosgene (20 g; 200 mmol) in 100 ml of toluene at 0° C. After 2 hours, the solution was filtered and evaporated to give the crude product as an oil, which was recrystallized from hexane to obtain 30 g (75%) pure pentafluorophenyl chloroformate.

reactant | Pentafluorophenol | 163 mmol, 30 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | triethylamine | 200 mmol, 20 g | C(C)N(CC)CC | C6H15N
reactant | phosgene | 200 mmol, 20 g | C(=O)(Cl)Cl | CCl2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | pentafluorophenyl chloroformate | 30 g, 75% | ClC(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C7ClF5O2
